reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[C@:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:9])[N:6]=[C:5]1[H:13]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23,70.5342016412036
[C:1]1([H:4])([H:5])[C:2]([H:6])([H:7])[O:3]1>>[C:1]([C:2][H:6])([O:3][H:7])([H:4])[H:5],72.6474620350221
[O:1]([C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:4]=[N:5][H:7].[O:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:6],98.8824349182935
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:2](=[O:3])=[C:4]([H:9])[H:10].[N:1]([C:5]#[N:6])([H:7])[H:8],93.20558283195999
[C:1]([C:2]([C:3]([O:6][C:5](=[C:4]([H:14])[H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.04057264397659
[C:1]([C@@:2]1([H:11])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1)([H:8])([H:9])[H:10].[H:12][H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],88.357062043524
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([H:12])[C@:4]([O:5][H:14])([H:13])[C@:6]1([O:7][H:17])[H:15])([H:8])([H:9])[H:10].[H:11][H:16],105.45380606054701
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([C:4]1([H:13])[C:5]([H:8])=[C:6]1[H:14])([H:11])[H:12])[H:10])([H:7])[H:9],84.5069631110903
[N:1]([C:2](=[O:3])[H:9])([C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],74.29989817108091
[O:1]([C:2][C@@:4]([C:3]([H:9])([H:10])[H:11])([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],29.664995825379005
[C:1]([N:5]([C:4]([C:3](=[C:2]([H:10])[H:11])[H:12])([H:13])[H:14])[C:6]([H:15])([H:16])[H:17])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],107.0705851444258
[C:1]([C@@:2]([O:3][H:11])([C:4](=[C:5]=[C:6]([H:12])[H:14])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],82.36209129895559
[O:1]1[C@@:2]2([H:8])[C:3]([H:9])([H:10])[C@@:4]2([H:11])[C@@:5]1([O:6][H:7])[H:12]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],34.5827165364672
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[H:12][H:15].[N:1]([C:2](=[O:3])[C:4](/[C:5](=[C:6](\[O:7][H:16])[H:14])[H:13])([H:10])[H:11])([H:8])[H:9],104.869923074375
[C:1]([C:2]([O:3][H:11])([H:10])[H:13])([H:7])([H:8])[H:9].[C:4](=[C:5]([H:14])[H:15])([O:6][H:16])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],68.32604144879589
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]=[C:3]=[C:4]([C:5]#[C:6][H:8])[H:7],80.28125109793679
[C:1]([C:4]([C:2](=[O:3])[H:11])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:12][H:13]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],81.4691086159541
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]/[C:3](=[C:4](\[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])[H:12])([H:8])([H:9])[H:10],73.1724017116991
[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3]([C:4]([C:5]([O:6][H:7])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:16].[O:1]=[C:2]([H:8])[H:9],74.3451797831596
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5][C:6]([H:16])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:14])[N:7]=[C:6]([H:15])[H:16])([H:8])([H:9])[H:10],100.73401397982
[N:1]([C:2]#[C:4][C:5](=[O:3])[C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],65.44703205002861
[C:1]([C:2]([O+:3]=[C-:4][N:5]([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],40.3214269582009
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:5](/[C:6]([O:7][H:19])([H:17])[H:18])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:16],66.06771786403941
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:5]1=[N:6][C@@:3]1([C:4]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],93.1436122648262
